US08895745B2
c) 1-{3-[7-(4H-[1,2,4]Triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea
To a stirred solution of 3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridine-7-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamide (17 mg, 0.04 mmol) in acetic acid (0.5 ml) was added hydrazine hydrate (5 μl, 0.1 mmol). The reaction mixture was heated at 90° C. for 30 min before being cooled to room temperature. The volatiles were removed in vacuo and the residue azeotroped with toluene. Trituration of the residue with Et2O afforded a pink solid (12 mg). MS: [M+H]+ 402.

reactant | 3-{3-[3-(2,2,2-Trifluoro-ethyl)-ureido]-phenyl}-imidazo[1,2-a]pyridine-7-carboxylic acid 1-dimethylamino-meth-(E)-ylideneamide | 0.04 mmol, 17 mg | CN(\C=N\C(=O)C1=CC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C | C20H19F3N6O2
reactant | hydrazine hydrate | 0.1 mmol, 5 μl | O.NN
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 1-{3-[7-(4H-[1,2,4]Triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 12 mg | N=1N=C(NC1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H14F3N7O
